US04081552
12. 3', 4'-dichloro-4-cyanobutyrophenone O-(2-aminoethyl) oxime hydrochloride
5.0 mmol (1.29 g) of 3', 4'-dichloro-4-cyanobutyrophenone oxime (melting point 122°-123° C), 5.2 mmol (0.60 g) of 2-chloroethylamine hydrochloride and 0.7 g of powdered potassium hydroxide were added, in this sequence and while stirring at 10° C, to 12 ml of dimethylformamide (D.M.F). After stirring for 2 days at room temperature the D.M.F. was evaporated invacuo, the residue was brought in water and 2N hydrochloric acid was then added while stirring until pH 3. The remaining oxime was removed by means of ether. The acid aqueous solution was then rendered alkaline with 15 ml of 2N sodium hydroxide solution and then extracted three times with ether. After washing with a 5% sodium bicarbonate solution, drying over sodium sulphate and evaporating the ether, the free base was obtained. This was dissolved in alcoholic hydrochloric acid. After evaporating the ethonal, the above entitled compound was crystallized from isopropanol/ether (1 : 1). Melting point 129°-130° C.

reactant | 3', 4'-dichloro-4-cyanobutyrophenone oxime | 5.0 mmol, 1.29 g | ClC=1C=C(C=CC1Cl)C(CCCC#N)=NO | C11H10Cl2N2O
reactant | 2-chloroethylamine hydrochloride | 5.2 mmol, 0.60 g | Cl.ClCCN
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
reactant | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
product | 3', 4'-dichloro-4-cyanobutyrophenone O-(2-aminoethyl) oxime hydrochloride | Cl.NCCON=C(CCCC#N)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C13H15Cl2N3O.ClH/c14-11-5-4-10(9-12(11)15)13(3-1-2-6-16)18-19-8-7-17;/h4-5,9H,1-3,7-8,17H2;1H
